US06090941
A solution of diethyl N-(4-((1,2,5,6-tetrahydro-3-methyl-1-oxo-benzo-[f]quinazolin-9-yl) sulfonamido)benzoyl)-L-glutamate (0.50 g, 0.84 mmol) in diglyme (10 ml) was stirred with 10% palladium on carbon (0.25 g) (Aldrich) under nitrogen at reflux for 3 hours. The solution was diluted with diglyme (20 ml), filtered hot through celite, and concentrated under high vacuum. The resulting solid was suspended in hot methanol (50 ml), stirred overnight at room temperature, filtered, and dried under high vacuum to give diethyl N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido)benzoyl)-L-glutamate as a white solid (0.25 g). 1H NMR (DMSO-d6, 200 MHz) δ: 1.10 (t, J=7 Hz, 3H, ester CH3), 1.12 (t, J=7 Hz, 3H, ester CH3), 1.78-2.15 (m, 2H, glu CH2), 2.35 (t, J=7 Hz, 2H, glu CH2), 2.4 3 (s, 3H, C3 --CH3), 3.98 (q, J=7 Hz, 2H, ester CH2), 4.04 (q, J=7 Hz, 2H, ester CH2), 2.35-4.39 (m, 1H, glu CH), 7.21 (d, J=9 Hz, 2H, Ar), 7.69 (d, J=9 Hz, 2H, Ar), 7.76 (d, J=9 Hz, 1H, Ar), 7.91 (dd, J=9,2 Hz, 1H, Ar), 8.19 (d, J=9 Hz, 1H, Ar), 8.29 (d, J 9 Hz, 1H, Ar), 8.51 (d, J=7 Hz, 1H, glu NH), 10.44 (d, J=2 Hz, 1H, Ar), 10.88 (br s, 1H, SO2NH), 12.75 (br s, 1H, N2H). Mass spectrum (CI-CH4): 595 (M+1, 24.1%). Anal. Calculated for C29H30N4O8S: C, 58.58; H, 5.08; N, 9.42; S, 5.39. Found: C, 58.46; H, 5.10; N, 9.34; S, 5.41.

reactant | diethyl N-(4-((1,2,5,6-tetrahydro-3-methyl-1-oxo-benzo-[f]quinazolin-9-yl) sulfonamido)benzoyl)-L-glutamate | 0.84 mmol, 0.50 g | CC1=NC=2CCC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)NC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C29H32N4O8S
solvent | diglyme | 10 ml | COCCOCCOC | C6H14O3
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
solvent | diglyme | 20 ml | COCCOCCOC | C6H14O3
product | diethyl N-(4-((1,2-dihydro-3-methyl-1-oxobenzo[f]quinazolin-9-yl)sulfonamido)benzoyl)-L-glutamate | 0.25 g | CC1=NC=2C=CC3=C(C2C(N1)=O)C=C(C=C3)S(=O)(=O)NC3=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C3 | C29H30N4O8S
